US05173485
To a suspension of lithium aluminum hydride (3.89 g) in tetrahydrofuran (195 ml) was added dropwise a solution of 1-ethoxycarbonylmethyl-2,3-dihydro-1H-imidazo[1,2-b]-pyrazole (20 g) in tetrahydrofuran (100 ml) at room temperature. The mixture was stirred at 50° C. for 1 hour. The reaction mixture was cooled under ice-bath To a mixture were added sodium fluoride (17.2 g) and water (5.5 ml) under ice-cooling. The insoluble material was filtered off and the filtrate was evaporated. The residue was subjected to column chromatography on silica gel using ethyl acetate as an eluent. Fractions containing the object compound were combined and evaporated in vacuo to give 1-(2-hydroxyethyl)-2,3-dihydro-1H-imidazo[1,2-b]pyrazole (5.91 g).

reactant | lithium aluminum hydride | 3.89 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-ethoxycarbonylmethyl-2,3-dihydro-1H-imidazo[1,2-b]-pyrazole | 20 g | C(C)OC(=O)CN1CCN2N=CC=C21 | C9H13N3O2
reactant | sodium fluoride | 17.2 g | [F-].[Na+]
reactant | water | 5.5 ml | O | H2O
solvent | tetrahydrofuran | 195 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(2-hydroxyethyl)-2,3-dihydro-1H-imidazo[1,2-b]pyrazole | 5.91 g | OCCN1CCN2N=CC=C21 | C7H11N3O
